US05700819
2-Amino-3,4,6-trifluorothiophenol (200 mg, 1.1 mmol) was dissolved in N-methylpyrrolidone (NMP, 1 ml) under a nitrogen stream. To the resultant solution was gradually added glutaric acid (127 mg, 1.1 mmol) at room temperature and the mixture was stirred at 100° C. for 6 hours. After naturally cooling, the mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with aqueous sodium bicarbonate. The alkaline phase was acidified with 10% hydrochloric acid and re-extracted with ethyl acetate. The combined organic phases were dried and then evaporated to yield a residue, which was recrystallized from acetonitrile to give 4-(4,5,7-trifluorobenzothiazol-2-yl)butanoic acid (133 mg, 44%).

reactant | 2-Amino-3,4,6-trifluorothiophenol | 1.1 mmol, 200 mg | NC1=C(C(=CC(=C1F)F)F)S | C6H4F3NS
reactant | glutaric acid | 1.1 mmol, 127 mg | C(CCCC(=O)O)(=O)O | C5H8O4
solvent | N-methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 4-(4,5,7-trifluorobenzothiazol-2-yl)butanoic acid | 133 mg, 44% | FC1=C(C=C(C2=C1N=C(S2)CCCC(=O)O)F)F | C11H8F3NO2S
